US07645776B2
0.1 mmol of 1-{2-[5-(3-Amino-phenyl)-2H-[1,2,4]triazol-3-yl]-piperidin-1-yl}-2-phenoxy-ethanone were dissolved in 1 ml DMF and 1 eq of succinic anhydride added. The reaction was stirred overnight and the intermediate (N-(3-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-phenyl)-succinamic acid) isolated via preparative HPLC. The isolated material was redissolved in DMF and 1 eq of HATU was added. The reaction mixture was heated to 120° C. using microwave heating. The product was isolated via preparative HPLC.

reactant | 1-{2-[5-(3-Amino-phenyl)-2H-[1,2,4]triazol-3-yl]-piperidin-1-yl}-2-phenoxy-ethanone | 0.1 mmol | NC=1C=C(C=CC1)C=1N=C(NN1)C1N(CCCC1)C(COC1=CC=CC=C1)=O | C21H23N5O2
reactant | succinic anhydride | 1 eq | C1(CCC(=O)O1)=O | C4H4O3
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(3-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-phenyl)-succinamic acid | O(C1=CC=CC=C1)CC(=O)N1C(CCCC1)C1=NC(=NO1)C=1C=C(C=CC1)NC(CCC(=O)O)=O | C25H26N4O6
